US07687503B2
4.1. 2-(ethyloxy)-2-oxoethyl 4-{5-[4-(trifluoromethyl)-phenyl]-2-pyridyl}-1-piperazinecarboxylate
The process is performed according to the procedure described in Example 1 (step 1.3.). Starting with 4 g (10.75 mmol) of 2-(ethyloxy)-2-oxoethyl 4-(5-bromo-2-pyridyl)-1-piperazinecarboxylate, obtained in step 3.3. of Example 3, 5.50 g (28.96 mmol) of 4-(trifluoromethyl)-phenylboronic acid, 9.12 g (42.99 mmol) of hydrated potassium phosphate and 1.24 g (1.07 mmol) of tetrakis(triphenylphosphine)palladium, and after chromatography on silica gel, eluting with a 30/70 mixture of ethyl acetate and cyclohexane, 2.78 g of product are obtained in the form of a white solid.

reactant | 2-(ethyloxy)-2-oxoethyl 4-(5-bromo-2-pyridyl)-1-piperazinecarboxylate | 10.75 mmol, 4 g | BrC=1C=CC(=NC1)N1CCN(CC1)C(=O)OCC(=O)OCC | C14H18BrN3O4
reactant | 4-(trifluoromethyl)-phenylboronic acid | 28.96 mmol, 5.50 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | cyclohexane | C1CCCCC1 | C6H12
catalyst | tetrakis(triphenylphosphine)palladium | 1.07 mmol, 1.24 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(ethyloxy)-2-oxoethyl 4-{5-[4-(trifluoromethyl)-phenyl]-2-pyridyl}-1-piperazinecarboxylate | FC(C1=CC=C(C=C1)C=1C=CC(=NC1)N1CCN(CC1)C(=O)OCC(=O)OCC)(F)F | C21H22F3N3O4
